US08975254B2
5-(4-Hydroxypiperidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in Example 1 starting from 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid and 4-hydroxypiperidine. The crude product was purified by flash chromatography using CH2Cl2-MeOH (95:5) as an eluent. 1H NMR (400 MHz, CDCl3): 1.62 (1H, d), 1.65 (2H, m), 1.95 (2H, m), 3.00 (2H, t), about 3.57 (2H, m), 3.77 (2H, q), about 4.1 (3H, m), 6.20 (1H, d), 6.58 (1H, d), 7.03 (1H, s), about 7.6 (1H, broad s), 7.40 (1H, distorted d), 7.43 (1H, distorted dd), 7.74 (1H, d), 11.6 (1H, broad s).

reactant | 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 5-(4-Hydroxypiperidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1NN=C(C1)C(=O)N1CCC(CC1)O | C22H22Cl2N4O4
